US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-(5-methyl-1H-pyrazol-3-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=334.5 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3-amino-5-methylpyrazole.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-amino-5-methylpyrazole | NC1=NNC(=C1)C | C4H7N3
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-(5-methyl-1H-pyrazol-3-yl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NC1=NNC(=C1)C | C19H19N5O
